US06093732
A mixture of 2-aminophenol (5.457 g) and diethyl ethoxymethylenemalonate (10.81 g) is heated to 130° C. for 2 h with removal of ethanol by a Dean-Stark trap. The reaction is cooled to room temperature. Diphenyl ether (50 mL) is added and the mixture is heated to 240° C. for 90 min with removal of ethanol by a Dean-Stark trap. The solution is cooled to room temperature and the resulting solid is collected and washed with hexanes. The crude solid is recrystallized from acetone to yield 0.650 g of ethyl 4,8-dihydroxyquinoline-3-carboxylate. A mixture of this ester (0.500 g) and 4-chlorobenzylamine (1.518 g) are heated to 180° C. for 1 h. The solution is cooled to room temperature and diluted with CH2Cl2. The resulting solid is collected and chromatographed on silica, eluting with 3% MeOH/CH2Cl2. Fractions homogeneous by TLC are combined and concentrated in vacuo. The residue is sonicated with CH2Cl2 /hexanes. The resulting solid is collected and dried to afford 0.349 g of the desired product as an off-white solid.

reactant | 2-aminophenol | 5.457 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | diethyl ethoxymethylenemalonate | 10.81 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | Diphenyl ether | 50 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | ethanol | C(C)O | C2H6O
product | ethyl 4,8-dihydroxyquinoline-3-carboxylate | 0.650 g | OC1=C(C=NC2=C(C=CC=C12)O)C(=O)OCC | C12H11NO4
